US06225324B1
A solution of 1-(3-cyanophenyl)-3-pyrrolidinol (0.65 g, 4.1 mmol) in triethyl amine (5.72 ml, 41 mmol) and DMSO (15 ml) was cooled to 0° C. and pyridine-SO3 (1.96 g, 12.3 mmol) was added. The mixture was stirred at 0° C. for 1 hr and at room temperature for 18 hr. The reaction mixture was poured into water (100 ml) and extracted three times with methylene chloride. The methylene chloride extracts were dried over magnesium sulfate and concentrated in vacuo to give 1-(3-cyanophenyl)-3-pyrrolidinone (0.41 g, 54%) that was used without purification.

reactant | 1-(3-cyanophenyl)-3-pyrrolidinol | 4.1 mmol, 0.65 g | C(#N)C=1C=C(C=CC1)N1CC(CC1)O | C11H12N2O
reactant | triethyl amine | 41 mmol, 5.72 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 1-(3-cyanophenyl)-3-pyrrolidinone | 0.41 g, 54% | C(#N)C=1C=C(C=CC1)N1CC(CC1)=O | C11H10N2O
